US07713993B2
A solution of 4 N hydrochloric acid in ethyl acetate (10 mL) was added to tert-butyl N′-(5-chloro-2-p-tolylpentanoyl)hydrazinecarboxylate (600 mg), and the reaction solution was stirred at room temperature for two hours. The reaction solution was concentrated under reduced pressure to obtain a crude product of 5-chloro-2-p-tolylpentanoic acid hydrazide hydrochloride. A solution of ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate dihydrochloride (2.03 g) and triethylamine (1 mL) in ethanol (8 mL) was added to a solution of the resulting crude product of 5-chloro-2-p-tolylpentanoic acid hydrazide 2hydrochloride and triethylamine (0.87 mL) in ethanol (8 mL), and the reaction solution was stirred at 80° C. in a nitrogen atmosphere for 19.5 hours. The reaction solution was cooled to room temperature, and then the solvent was evaporated from the reaction solution under reduced pressure. Ethyl acetate and saturated sodium bicarbonate water were added to the resulting residue, and the organic layer was separated. The resulting organic layer washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane:ethyl acetate=1:1->ethyl acetate->ethyl acetate:methanol=9:1) and further purified by silica gel column chromatography (elution solvent: ethyl acetate->ethyl acetate:methanol=9:1) to obtain 221 mg of a racemate of the title compound. The resulting racemate (100 mg) was separated by CHIRALPAK™ AD-H manufactured by Daicel Chemical Industries, Ltd. (2 cm×25 cm; mobile phase: hexane:ethanol=1:1) to obtain the title optically active compound with a retention time of 17 minutes and positive optical rotation (48.6 mg) and the title optically active compound with a retention time of 23 minutes and negative optical rotation (48 mg).

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | tert-butyl N′-(5-chloro-2-p-tolylpentanoyl)hydrazinecarboxylate | 600 mg | ClCCCC(C(=O)NNC(=O)OC(C)(C)C)C1=CC=C(C=C1)C | C17H25ClN2O3
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-p-tolylpentanoic acid hydrazide hydrochloride | Cl.ClCCCC(C(=O)NN)C1=CC=C(C=C1)C | InChI=1S/C12H17ClN2O.ClH/c1-9-4-6-10(7-5-9)11(3-2-8-13)12(16)15-14;/h4-7,11H,2-3,8,14H2,1H3,(H,15,16);1H
